US07037916B2
Raney Ni (approx 1 mL) was added to 3-(tetrahydro-furan-2-yl)-acrylonitrile (0.43 g, 3.5 mmol) in THF (6 mL), the mixture was evacuated then charged with 1 atm H2 (balloon) then stirred overnight. The mixture was recharged with Raney Ni (1 mL) and H2 and stirring was continued an additional 24 hour, until no starting material was evident via TLC. The reaction contents were filtered through a celite plug, that was thoroughly rinsed with MeOH, solvents removed to yield 3-(Tetrahydro-furan-2-yl)-propylamine (51% yield). ESI-MS (m/z) 130 [M+H]+.

reactant | 3-(tetrahydro-furan-2-yl)-acrylonitrile | 3.5 mmol, 0.43 g | O1C(CCC1)C=CC#N | C7H9NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Ni | approx 1 mL | [Ni] | Ni
product | 3-(Tetrahydro-furan-2-yl)-propylamine | 51% yield | O1C(CCC1)CCCN | C7H15NO
